US04260619
The solution of 0.15 g of dibenzoyl-2-(2-methylaminopropyl)-5-pyridinol in 5 ml of 5 N hydrochloric acid is refluxed for 23 hours, cooled, twice washed with 5 ml of diethyl ether and evaporated, to yield the 2-(2-methylaminopropyl)-5-pyridinol dihydrochloride, showing in the mass-spectrum peaks at 165, 151, 109 and 58 m/e.

reactant | dibenzoyl-2-(2-methylaminopropyl)-5-pyridinol | 0.15 g | C(C1=CC=CC=C1)(=O)C1=C(C(=NC=C1O)CC(C)NC)C(C1=CC=CC=C1)=O | C23H22N2O3
reactant | hydrochloric acid | 5 N, 5 ml | Cl | ClH
product | 2-(2-methylaminopropyl)-5-pyridinol dihydrochloride | Cl.Cl.CNC(CC1=NC=C(C=C1)O)C | InChI=1S/C9H14N2O.2ClH/c1-7(10-2)5-8-3-4-9(12)6-11-8;;/h3-4,6-7,10,12H,5H2,1-2H3;2*1H
